US09127027B2
1-(tert-Butyldiphenylsilyloxy)undec-5-yn-1-ol
Following the procedure reported to prepare analog 25, 1-(tert-butyldiphenylsilyloxy)-11-(tetrahydro-2H-pyran-2-yloxy)undec-6-yne was cleaved with a catalytic amount of PPTS to give the title compound (72%) as a colorless liquid. TLC: EtOAc/hexanes (3:7), Rf˜0.43; 1H NMR (300 MHz) δ 7.64-7.68 (m, 4H), 7.34-7.42 (m, 6H), 3.62 (t, J=5.6 Hz, 4H), 2.06-2.22 (m, 4H), 1.64-1.50 (m, 10H), 1.04 (s, 9H); 13C NMR (100 MHz) δ 135.82, 134.33, 129.77, 127.84, 80.77, 80.11, 64.06, 62.69, 32.35, 32.10, 29.10, 27.12, 25.60, 25.33, 18.97, 18.78. HRMS calcd for C27H39O2Si [M+1]+ 423.2719. found 423.2718.

reactant | 1-(tert-butyldiphenylsilyloxy)-11-(tetrahydro-2H-pyran-2-yloxy)undec-6-yne | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCCCC#CCCCCOC1OCCCC1 | C32H46O3Si
reactant | PPTS | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
product | 1-(tert-Butyldiphenylsilyloxy)undec-5-yn-1-ol | 72% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC(CCCC#CCCCCC)O | C27H38O2Si
